US07196090B2
Cyclopentyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine
In a 1-L round bottom flask, 10.00 g (0.0528 mol) of 2,6-difluoro-3,5-dimethoxy-phenylamine and 12.42 g (0.0523 mol) of 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde in 500 mL of toluene with 3.65 g (0.0157 mol) of camphorsulfonic acid was fitted with a Dean Stark trap and heated at reflux. During the day, the toluene was drained three times from the finger and continued heating at reflux under nitrogen atmosphere overnight. The toluene was concentrated in vacuo and dried to give 25.30 g (quantitative) of the title compound. No further purification was necessary. MS (APCI) (m+1)/z 409.2.

reactant | 2,6-difluoro-3,5-dimethoxy-phenylamine | 0.0528 mol, 10.00 g | FC1=C(C(=C(C=C1OC)OC)F)N | C8H9F2NO2
reactant | 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 0.0523 mol, 12.42 g | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
reactant | camphorsulfonic acid | 0.0157 mol, 3.65 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclopentyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine | C1(CCCC1)NC1=NC(=NC=C1C=NC1=C(C(=CC(=C1F)OC)OC)F)SC | C19H22F2N4O2S
